US04912115
(b) 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline dihydrochloride
To a solution of 4.1 (8 mmol) of 2-[N-methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-acetyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hemihydrate in 250 ml of tetrahydrofuran are added 12 ml of 1 molar borane-tetrahydrofuran complex in tetrahydrofuran and whilst the mixture is stirred at ambient temperature 1.5 ml (12 mmol) of boron trifluoride-diethyl-etherate complex are added dropwise. After 3 hours' reaction, 15 ml of 6 molar hydrochloric acid are added dropwise, the mixture is refluxed for 0.5 hours and solvent is then evaporated off in vacuo. The aqueous portion remaining is made alkaline with 2 molar sodium hydroxide solution and then extracted with methylene chloride. The organic phase is washed with water, dried over sodium sulphate, evaporated down in vacuo and purified over a silica gel column (0.063-0.2 mm) with methylene chloride and then with increasing amounts of ethanol (up to 5%). The dihydrochloride is precipitated with ethereal hydrochloric acid from a solution in acetone and is then recrystallized from acetone.

reactant | 2-[N-methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-acetyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hemihydrate | O.CN(CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O)C(CC1=CN=CC2=CC(=C(C=C12)OC)OC)=O.CN(C(CC1=CN=CC2=CC(=C(C=C12)OC)OC)=O)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O
reactant | hydrochloric acid | 6 molar, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-ethyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | Cl.Cl.CN(CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O)CCC1=CN=CC2=CC(=C(C=C12)OC)OC | InChI=1S/C28H35N3O5.2ClH/c1-30(11-7-20-17-29-18-21-14-25(34-3)26(35-4)15-22(20)21)9-6-10-31-12-8-19-13-24(33-2)27(36-5)16-23(19)28(31)32;;/h13-18H,6-12H2,1-5H3;2*1H
